US06541521B1
In a manner similar to that described in Example 3, 2,4-difluoro-benzoyl chloride (0.059 g, 0.00033 mol) was allowed to react with 4-(4-amino-phenyl)-4-oxo-butyric acid, methyl ester (0.052 g, 0.00025 mol), and the resulting intermediate was hydrolyzed to give 0.064 g of 4-[4-(2,4-difluoro-benzoylamino)-phenyl]-4-oxo-butyric acid as an off-white solid; MS-(AP+) MH+334.

reactant | 2,4-difluoro-benzoyl chloride | 0.00033 mol, 0.059 g | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | 4-(4-amino-phenyl)-4-oxo-butyric acid, methyl ester | 0.00025 mol, 0.052 g | NC1=CC=C(C=C1)C(CCC(=O)OC)=O | C11H13NO3
product | 4-[4-(2,4-difluoro-benzoylamino)-phenyl]-4-oxo-butyric acid | 0.064 g | FC1=C(C(=O)NC2=CC=C(C=C2)C(CCC(=O)O)=O)C=CC(=C1)F | C17H13F2NO4
